US07744657B2
Stage 1: Synthesis of 2,2′-(disulfanediyldibutane-4,1-diyl)bis(5,6,7,8-tetrahydroisoquinolinium) dimethane sulfonate
2.1 g of 5,6,7,8-tetrahydroisoquinoline and 0.5 g of potassium carbonate were mixed in 2 ml of acetonitrile and brought to 100° C. A solution of 2.7 g of disulfanediyldibutane-4,1-diyl dimethane sulfonate in 2 ml of acetonitrile was added in 5 min. Stirring was maintained for 3 h at 100° C. and then the reaction medium was brought back to ambient temperature and concentrated under vacuum. 10 ml of dichloromethane were added and the solution was filtered and then poured dropwise into 100 ml of ethyl ether. The oil that had separated by settling out was reprocessed by diluting in 10 ml of dichloromethane and adding to 500 ml of ethyl ether. After drying under vacuum, 3.3 g of a brown oil were recovered. The analyses were in compliance with the expected structure.

reactant | 5,6,7,8-tetrahydroisoquinoline | 2.1 g | C1=NC=CC=2CCCCC12 | C9H11N
reactant | potassium carbonate | 0.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | disulfanediyldibutane-4,1-diyl dimethane sulfonate | 2.7 g | CS(=O)(=O)OCCCCSSCCCCOS(=O)(=O)C | C10H22O6S4
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 2,2′-(disulfanediyldibutane-4,1-diyl)bis(5,6,7,8-tetrahydroisoquinolinium) dimethane sulfonate | CS(=O)(=O)[O-].CS(=O)(=O)[O-].S(SCCCC[N+]1=CC=2CCCCC2C=C1)CCCC[N+]1=CC=2CCCCC2C=C1 | InChI=1S/C26H38N2S2.2CH4O3S/c1-3-11-25-21-27(17-13-23(25)9-1)15-5-7-19-29-30-20-8-6-16-28-18-14-24-10-2-4-12-26(24)22-28;2*1-5(2,3)4/h13-14,17-18,21-22H,1-12,15-16,19-20H2;2*1H3,(H,2,3,4)/q+2;;/p-2
